US06864265B2
The intermediate, N-benzimidazolyl-1,2-propanediol (0.66 g 3.4 mmol) from above was dissolved in water (25 mL) and treated with sodium periodate (0.88 g, 4.1 mmol) with stirring for 1.5 hours. The solution was then extracted with dichloromethane, dried (MgSO4), filtered and concentrated to yield 2-(benzimidazol-1-yl)-ethanal (0.22 g, 1.4 mmol) which was used immediately without further purification in the next reaction.

reactant | N-benzimidazolyl-1,2-propanediol | 3.4 mmol, 0.66 g | N1(C=NC2=C1C=CC=C2)C(C(C)O)O | C10H12N2O2
reactant | sodium periodate | 4.1 mmol, 0.88 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | water | 25 mL | O | H2O
product | 2-(benzimidazol-1-yl)-ethanal | 1.4 mmol, 0.22 g | N1(C=NC2=C1C=CC=C2)CC=O | C9H8N2O
